US07138406B2
(2R,3R,4aR,10aR)-4a-Ethyl-3-methyl-2-pyridin-4-yl-1,2,3,4,4a,9,10,10a-octahydrophenanthrene-2,3,7-triol
A solution of (2R,4aR,10aR)-7-(tert-butyidimethylsilanyloxy)-4a-ethyl-2-hydroxy-2-pyridin-4-yl-1,4,4a,9,10,10a-hexahydro-2H-phenanthren-3-one (32 mg, 0.65 mmol) in tetrahydrofuran (5 mL) was cooled to −78° C. and treated with a 1.0 M solution of methyllithium/lithium iodide complex in tetrahydrofuran (0.65 mL, 0.65 mmol). The mixture was allowed to stir from −78° C. to room temperature over 3 days and was then quenched with saturated aqueous ammonium chloride solution and water. The mixture was extracted four times with ethyl acetate. The combined extracts were washed with brine, dried over sodium sulfate and concentrated to a solid that was triturated with hexane and diethyl ether. The title compound (3 mg, 13%) was isolated from the solid by chromatography on silica gel eluting with a gradient of 50% ethyl acetate in hexane to 100% ethyl acetate. Mass spectrum (m/e) 354 (M++1).

reactant | (2R,4aR,10aR)-7-(tert-butyidimethylsilanyloxy)-4a-ethyl-2-hydroxy-2-pyridin-4-yl-1,4,4a,9,10,10a-hexahydro-2H-phenanthren-3-one | 0.65 mmol, 32 mg | [Si](C)(C)(C(C)(C)C)OC1=CC=C2[C@@]3(CC([C@@](C[C@H]3CCC2=C1)(C1=CC=NC=C1)O)=O)CC | C27H37NO3Si
reactant | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 0.65 mmol, 0.65 mL | O1CCCC1 | C4H8O
product | (2R,3R,4aR,10aR)-4a-Ethyl-3-methyl-2-pyridin-4-yl-1,2,3,4,4a,9,10,10a-octahydrophenanthrene-2,3,7-triol | 3 mg, 13% | C(C)[C@]12C[C@]([C@](C[C@H]2CCC2=CC(=CC=C12)O)(O)C1=CC=NC=C1)(O)C | C22H27NO3
